US07098212B2
3-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzylamino)-propionic acid
To a solution of 3-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzylamino)-propionic acid methyl ester (0.035 g, 0.069 mmol) in tetrahydrofuran (0.2 mL), methanol (0.2 mL) and water (0.1 mL) was added lithium hydroxide monohydrate (0.015 g, 0.35 mmol). The reaction mixture was stirred at ambient temperature overnight. The reaction mixture was then concentrated in vacuo and the resulting residue was dissolved in dichloromethane and treated with hydrogen chloride gas. The resulting white solid was washed with acetonitrile. The acetonitrile wash was concentrated to give the title compound as its hydrochloride salt (0.010 g, LRMS: 490.3).

reactant | 3-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzylamino)-propionic acid methyl ester | 0.069 mmol, 0.035 g | COC(CCNCC1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C26H33ClFN3O4
reactant | lithium hydroxide monohydrate | 0.35 mmol, 0.015 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 0.2 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.2 mL | CO | CH4O
solvent | water | 0.1 mL | O | H2O
product | 3-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzylamino)-propionic acid | ClC=1C=CC(=C(CNCCC(=O)O)C1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C25H31ClFN3O4
